US06586429B2
A mixture of (R)-8-(2-chloroethylsulfanyl)-1-(5-hydroxyhexyl)-3-methylxanthine (76 mg, 0.21 mmol) and potassium carbonate (58 mg, 0.42 mmol) in acetonitrile (15 ml) was stirred at 80° C. for 2 hours. After concentrating under reduced pressure, the residue was purified by column chromatography eluting with ethyl acetate-hexane (1:1) to provide (R)-6,7-dihydro-3-(5-hydroxyhexyl)-1-methyl-thiazolo[2,3-f]purine-2,4(1H,3H)-dione (CT 13421) (22 mg, 32% yield) as a white powder.

reactant | (R)-8-(2-chloroethylsulfanyl)-1-(5-hydroxyhexyl)-3-methylxanthine | 0.21 mmol, 76 mg | ClCCSC1=NC=2N(C(N(C(C2N1)=O)CCCC[C@@H](C)O)=O)C | C14H21ClN4O3S
reactant | potassium carbonate | 0.42 mmol, 58 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (R)-6,7-dihydro-3-(5-hydroxyhexyl)-1-methyl-thiazolo[2,3-f]purine-2,4(1H,3H)-dione | 22 mg, 32% yield | O[C@@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCS3)C)=O)C | C14H20N4O3S
